US06617346B1
To solution of 5-bromo-2,4-dihydroxy-benzoic acid (5 g, 21.46 mmol) in dimethylformamide (30 mL) were added dimethyl sulfate (5.413 g, 42.92 mmol) and potassium carbonate (8.907 g, 64.38 mmol). The reaction mixture was heated at 80-90° C. for 12 h. Upon cooling to room temperature, the white solid was filtered off and the filtrate was concentrated in vacuo. The product was extracted with diethyl ether (2×100 mL). The organic layers were washed with water (1×10 mL), brine (1×10 mL) and dried over anhydrous sodium sulfate. The solid was filtered off and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 20-30% ethyl acetate in hexanes yielded methyl 5-bromo-2,4-dimethoxy-benzoate as a white solid (5.137 g, 87%).

reactant | 5-bromo-2,4-dihydroxy-benzoic acid | 21.46 mmol, 5 g | BrC=1C(=CC(=C(C(=O)O)C1)O)O | C7H5BrO4
reactant | dimethyl sulfate | 42.92 mmol, 5.413 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 64.38 mmol, 8.907 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 5-bromo-2,4-dimethoxy-benzoate | 5.137 g, 87% | BrC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H11BrO4
